US06528510B1
(2-tert-Butoxycarbonylamino-4-tert-Butyl-5-mercapto-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared according to General Method 14b using (2-tert-butoxycarbonylamino-4-tert-butyl-5-thiocyanato-phenyl)-carbamic acid tert-butyl ester (prepared in Example SS-2; 18 g, 43 mmol), sodium hydrogen sulfide (7.2 g, 128 mmol), sodium borohydride (9.7 g, 256 mmol), MeOH (150 mL), H2O (50 mL), and AcOH (10 mL). The crude product was used without purification.

reactant | (2-tert-butoxycarbonylamino-4-tert-butyl-5-thiocyanato-phenyl)-carbamic acid tert-butyl ester | 43 mmol, 18 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)SC#N)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C21H31N3O4S
reactant | sodium hydrogen sulfide | 128 mmol, 7.2 g | S.[Na]
reactant | sodium borohydride | 256 mmol, 9.7 g | [BH4-].[Na+]
reactant | MeOH | 150 mL | CO | CH4O
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | H2O | 50 mL | O | H2O
product | (2-tert-Butoxycarbonylamino-4-tert-Butyl-5-mercapto-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)S)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C20H32N2O4S
